US04145538
Five hundred milligrams of 7-(5-amino-5-carboxyvaleramido)-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid was dissolved in 10 milliliters of sodium borate buffer and 650 milligrams of chloroacetyl chloride was added at ~20° C., keeping the pH of 9.0-9.5 by addition of 40 percent sodium hydroxide solution. After addition of the chloroacetyl chloride was complete, the reaction mixture was stirred for thirty minutes. The pH was adjusted to about 6.5 by addition of 30 percent sulfuric acid; then 10 milliliters of ethyl acetate:ethanol (9:1) was added, and the pH adjusted to 2.0. The organic layer was separated, dried over anhydrous magnesium sulfate, and ether was added, resulting in the precipitation of the desired 7-(5-(chloroacetamido)-5-carboxyvaleramido)-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid. It was separated as a white powder, 195 milligrams, and characterized: titration (in 66 percent dimethylformamide): initial pH 3.9 pKa's at 4.8 and 6.1. Amino acid analysis: 0.12 μM./mg. of glycine and 1.9 μM./mg. of α-aminoadipic acid. NMR in dimethylsulfoxide-d6 showed bands at 6.36, 6.58 (2-CH2, q, J = 18); 5.08, 5.35 (3-CH2, q, J = 13); 4.89 (H-6, d, J= 5.0); 4.34 (H-7, q, J = 5.0, 8.0); 3.41 (CONH2, s); 5.87 (COCH2Cl, s); 1.17 τ (7-NH, d, J = 8.0 Hz).

reactant | 7-(5-amino-5-carboxyvaleramido)-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | Five hundred milligrams | NC(CCCC(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)C(=O)O | C15H20N4O8S
reactant | chloroacetyl chloride | 650 milligrams | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | sodium borate | 10 milliliters | B([O-])([O-])[O-].[Na+].[Na+].[Na+]
solvent | ethyl acetate ethanol | 10 milliliters | C(C)(=O)OCC.C(C)O
product | 7-(5-(chloroacetamido)-5-carboxyvaleramido)-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | ClCC(=O)NC(CCCC(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)C(=O)O | C17H21ClN4O9S
